US07432275B2
5. 2-Methoxymethyl-4-(4-trifluoromethyl-phenylamino)-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridine-3-carboxylic acid methyl ester
Dissolve 4-chloro-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridine-3-carboxylic acid methyl ester (0.57 g, 1.4 mmol) and 4-trifluoromethyl aniline (234 mg, 1.53 mmol) in acetonitrile (10 mL). Stir overnight at room temperature. Remove the solvent under reduced pressure and dissolve the crude product in EtOAc (25 mL) and saturated NaHCO3 (aq) (25 mL). Remove the organic layer and dry over Na2SO4. Remove the solvent under reduced pressure and chromatograph the crude mixture on silica gel eluting with hexane/acetone (2:1) to yield the title compound. MS 537.18 (M+1).

reactant | 4-chloro-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridine-3-carboxylic acid methyl ester | 1.4 mmol, 0.57 g | COC(=O)C=1C(=NC2=NC(=CC=C2C1Cl)C1=NC=CC=C1C(F)(F)F)COC | C18H13ClF3N3O3
reactant | 4-trifluoromethyl aniline | 1.53 mmol, 234 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-Methoxymethyl-4-(4-trifluoromethyl-phenylamino)-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridine-3-carboxylic acid methyl ester | COC(=O)C=1C(=NC2=NC(=CC=C2C1NC1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C(F)(F)F)COC | C25H18F6N4O3
